US07214798B2
7.2. 3-{2-[1-(4-Isoquinolyl)-4-piperidyl]ethyl)-1,3-oxazolidine-2,4-dione
The procedure described in Example 5 (step 5.2) is used. Starting with 0.801 g (3.12 mmol) of 2-[1-(4-isoquinolyl)-4-piperidyl]ethanol, prepared in step 7.1, 0.902 g (3.44 mmol) of triphenylphosphine, 0.379 g (3.75 mmol) of 1,3-oxazolidine-2,4-dione and 0.632 g (3.12 mmol) of diisopropyl azodicarboxylate (DIAD), and after chromatography on silica gel, eluting with a 98/2 mixture of dichloromethane and methanol, 1 g of product is obtained in the form of a green paste.

reactant | 2-[1-(4-isoquinolyl)-4-piperidyl]ethanol | 3.12 mmol, 0.801 g | C1=NC=C(C2=CC=CC=C12)N1CCC(CC1)CCO | C16H20N2O
reactant | triphenylphosphine | 3.44 mmol, 0.902 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,3-oxazolidine-2,4-dione | 3.75 mmol, 0.379 g | O1C(NC(C1)=O)=O | C3H3NO3
reactant | diisopropyl azodicarboxylate | 3.12 mmol, 0.632 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
product | 3-{2-[1-(4-Isoquinolyl)-4-piperidyl]ethyl)-1,3-oxazolidine-2,4-dione | 1 g | C1=NC=C(C2=CC=CC=C12)N1CCC(CC1)CCN1C(OCC1=O)=O | C19H21N3O3
